US07501414B2
12b N-(2-Chloro-6-methyl-4-morpholin-4-yl-phenyl)-2-cyclopentyl-acetamide
N-(4-Amino-2-chloro-6-methyl-phenyl)-2-cyclopentyl-acetamide (830 mg), bis-(2-chloroethyl)ether (3.35 mL) and potassium iodide (470 mg) were mixed in absolute ethanol (33 mL) and heated to 170° C. for 1 hour in a sealed microwave process vial. The crude mixture was concentrated in vacuo and purified by flash chromatography to furnish 390 mg (41%) of the title compound as a white solid. LC-MS (m/z) 337 (MH+); tR=2.61, (UV, ELSD) 97%, 99%. 1H NMR (500 MHz, DMSO-d6): 1.22 (m, 2H), 1.51 (m, 2H), 1.61 (m, 2H), 1.77 (m, 2H), 2.11 (s, 3H), 2.25 (m, 1H), 2.26 (m, 2H), 3.10 (m, 4H), 3.71 (m, 4H), 6.80 (d, 1H), 6.84 (d, 1H), 9.18 (s, 1H).

reactant | N-(4-Amino-2-chloro-6-methyl-phenyl)-2-cyclopentyl-acetamide | 830 mg | NC1=CC(=C(C(=C1)C)NC(CC1CCCC1)=O)Cl | C14H19ClN2O
reactant | bis-(2-chloroethyl)ether | 3.35 mL | ClCCOCCCl | C4H8Cl2O
reactant | potassium iodide | 470 mg | [I-].[K+]
solvent | ethanol | 33 mL | C(C)O | C2H6O
product | N-(2-Chloro-6-methyl-4-morpholin-4-yl-phenyl)-2-cyclopentyl-acetamide | 390 mg, 41% | ClC1=C(C(=CC(=C1)N1CCOCC1)C)NC(CC1CCCC1)=O | C18H25ClN2O2
